US05254578
trans-6-Heptafluoropropylsulfonyl-3,4-dihydro-2,2-dimethyl-4-(1-oxoisoindolin-2yl)-2H-1-benzopyran-3-ol (Compound No. 1-3)
A solution of 0.142 g of zinc chloride and 0.065 g of sodium cyanoborohydride in 3 ml of methanol was added to a solution of 0.40 g of trans-4-amino-6-heptafluoropropylsulfonyl-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (prepared as described in Preparation 4) and 0.156 g of methyl 2-formylbenzoate in 6 ml of methanol, and the resulting mixture was stirred at room temperature for 1 hour and then at 50° C. for 24 hours. At the end of this time, the mixture was cooled with ice and then mixed with a saturated aqueous solution of sodium hydrogencarbonate. The methanol was then removed by distillation under reduced pressure, and the resulting residue was diluted with water and extracted with methylene chloride. The extract was washed with water and with a saturated aqueous solution of sodium chloride, in that order, and dried over anhydrous magnesium sulfate; the solvent was then removed by distillation under reduced pressure. The resulting residue was recrystallized from ethyl acetate, to afford 0.356 g of the title compound, melting at 241°-249° C.

reactant | sodium cyanoborohydride | 0.065 g | C(#N)[BH3-].[Na+]
reactant | trans-4-amino-6-heptafluoropropylsulfonyl-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 0.40 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)S(=O)(=O)C(C(C(F)(F)F)(F)F)(F)F)(C)C)O | C14H14F7NO4S
reactant | methyl 2-formylbenzoate | 0.156 g | C(=O)C1=C(C(=O)OC)C=CC=C1 | C9H8O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 6 ml | CO | CH4O
catalyst | zinc chloride | 0.142 g | [Cl-].[Zn+2].[Cl-]
product | trans-6-Heptafluoropropylsulfonyl-3,4-dihydro-2,2-dimethyl-4-(1-oxoisoindolin-2yl)-2H-1-benzopyran-3-ol | 0.356 g | FC(C(S(=O)(=O)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(C3=CC=CC=C3C2)=O)C1)(F)F)(C(F)(F)F)F | C22H18F7NO5S
